US04006137
1,3-Dimethyl-2-[2-(2-pyridinyl)ethenyl]-1H-imidazolium iodide
A mixture of 12.0 g of 1,2,3-trimethyl-1H-imidazolium iodide and 12 ml of 2-pyridinecarboxaldehyde in 40 ml of 10% potassium hydroxide in absolute ethanol is refluxed for 15 minutes. The resulting solid is filtered off and crystallized from absolute ethanol to yield 3.5 g of the title compound, melting point 306° C.

reactant | 1,2,3-trimethyl-1H-imidazolium iodide | 12.0 g | [I-].C[NH+]1C(N(C=C1)C)C
reactant | 2-pyridinecarboxaldehyde | 12 ml | N1=C(C=CC=C1)C=O | C6H5NO
solvent | potassium hydroxide | 40 ml | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1,3-Dimethyl-2-[2-(2-pyridinyl)ethenyl]-1H-imidazolium iodide | 3.5 g | [I-].C[NH+]1C(N(C=C1)C)C=CC1=NC=CC=C1 | InChI=1S/C12H15N3.HI/c1-14-9-10-15(2)12(14)7-6-11-5-3-4-8-13-11;/h3-10,12H,1-2H3;1H
